US07662831B2
Following the procedure of Example 1, Step 3, 6-nitroquinoline (2.5 g) and 5% palladium on carbon (0.10 g) in ethanol (40 mL) was hydrogenated to give 6-aminoquinoline (2.2 g). A mixture of 6-aminoquinoline (2.2 g, 15 mmol), t-butylacetyl chloride (2.2 mL, 16 mmol), and pyridine (2.5 mL, 31 mmol) in dichloromethane (40 mL) was then stirred at ambient temperature for 4 h and then extracted with 1 N HCl. The acidic layer was separated and treated with 50% NaOH until basic. The basic phase was extracted with dichloromethane. The combined extracts were dried (MgSO4) and concentrated. The crude material was triturated with hexane and the solid was collected by filtration to provide 3,3-dimethyl-N-quinolin-6-ylbutanamide (3.0 g). MS (ES) m/z 241.1.

reactant | 6-aminoquinoline | 15 mmol, 2.2 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | t-butylacetyl chloride | 16 mmol, 2.2 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | pyridine | 31 mmol, 2.5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3,3-dimethyl-N-quinolin-6-ylbutanamide | 3.0 g | CC(CC(=O)NC=1C=C2C=CC=NC2=CC1)(C)C | C15H18N2O
